US06627744B2
2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyl methanethiosulfonate 12β
2,3,4,6-Tetra-O-acetyl-α-D-glucopyranosyl bromide (1 g, 2.44 mmol) and sodium methanethiosulfonate (0.4 g, 3.05 mmol) were placed under nitrogen. 30 ml of anhydrous toluene was added followed by tetrabutylammonium bromide (69 mg, 0.21 mmol) and the mixture heated under reflux for 75 minutes. Part way through 6 ml of DMF were added as it seemed that 2,3,4,6-Tetra-O-acetyl-α-D-glucopyranosyl bromide was insoluble in toluene. Reaction continued to reflux despite the fact that solution not formed. Thin Layer Chromatography (“TLC”) at end of reaction showed reaction to have gone to completion. Solution reduced on high pressure rotary evaporator to remove DMF. Product purified on flash silica gel column, reaction mixture added directly onto column (adding a small amount of Celite to reaction mixture sufficient to avoid salt cake forming on top of column.) Petroleum Ether: Ethyl Acetate 60:40 was used as the eluting solvent. Yield=75%.

reactant | 2,3,4,6-Tetra-O-acetyl-α-D-glucopyranosyl bromide | 2.44 mmol, 1 g | C(C)(=O)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)Br | C14H19BrO9
reactant | sodium methanethiosulfonate | 3.05 mmol, 0.4 g | CS(=O)([O-])=S.[Na+]
reactant | DMF | 6 ml | CN(C)C=O | C3H7NO
reactant | salt cake | [O-]S(=O)(=O)[O-].[Na+].[Na+]
catalyst | tetrabutylammonium bromide | 0.21 mmol, 69 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyl methanethiosulfonate | Yield=75% | CS(=O)(O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)=S | C15H22O11S2
